Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ ___ advanced dementia with parkinsonism presenting as 
transfer from ___ w/ AMS. In the ED, her husband who 
brought her reported 4 days of declining cognitive function and 
today was very weak and unable to ambulate.  
 Patient unable to provide any additional information regarding 
her condition. Labs reportedly normal at OSH.  
 Son at bedside. not able to give much of a recent history as 
has been out of town. Reports she has ___ gradually declining 
for the last few years but the last few days has been 
hallucinating, and having trouble ambulating. At baseline is 
continent, interactive but has had trouble with words. Unable to 
tell if she has had any specific symptoms other than 
hallucinations and gait difficulties.  
 In the ED, initial vital signs were: 98.8 73 129/66 16 97% RA  
 - Labs were notable for: normal chem 7, normal lactate. 
negative flu swab, negative UA, unremarkable CBC  
 - Imaging: CT head showed No acute intracranial process. Chest 
XRAY with No radiographic evidence pneumonia.  
 - The patient was given: 1L of NS, Acetaminophen 650 mg , and 
Carbidopa-Levodopa (___) 1 TAB  
 Vitals prior to transfer were: 0 97.8 68 124/68 16 100% RA  
 She also had one episode of fever in the ED to 101.4  

 
Past Medical History:
ANXIETY  
 BENIGN POSITIONAL VERTIGO  
 CATARACTS  
 DEMENTIA WITH ___ BODIES  
 HEARING LOSS  
 HYPERCHOLESTEROLEMIA  
 HYPERTENSION  
 INGUINAL HERNIA  
 INSOMNIA  
 H/O RETINAL DETACHMENT  

 
Social History:
___
Family History:
 Her mother died of breast cancer at the age of  
 ___. Her father died of emphysema  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VITALS: 99.5 137/82 hr 76 rr16 96%RA  
 GENERAL: Pleasant, well-appearing, in no apparent distress.  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
 SKIN: Without rash.  
 NEUROLOGIC: non-focal but otherwise not able to follow commands 
for a thorough neuro exam. she is alert. extremities with some 
rigidity and 3 beat clonus bilaterally. no facial asymmetry. 
able to move her arms and legs in bed. Did appear to be having 
some visual hallucinations.  

DISCHARGE PHYSICAL EXAM: 
VITALS: 97.8  124/60  64  18  98%RA   
 GENERAL: Pleasant, well-appearing, in no apparent distress.  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
 SKIN: Without rash.  
 NEUROLOGIC: non-focal
 
Pertinent Results:
LABS

___ 06:10AM BLOOD WBC-7.1 RBC-4.26 Hgb-13.1 Hct-40.3 MCV-95 
MCH-30.8 MCHC-32.5 RDW-13.2 RDWSD-45.1 Plt ___
___ 06:10AM BLOOD Neuts-73.6* Lymphs-18.8* Monos-6.6 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-5.21 AbsLymp-1.33 
AbsMono-0.47 AbsEos-0.02* AbsBaso-0.03
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD Glucose-107* UreaN-14 Creat-1.0 Na-140 
K-3.7 Cl-104 HCO3-27 AnGap-13
___ 06:21AM BLOOD Lactate-1.1
___ 06:50AM URINE Color-Straw Appear-Clear Sp ___
___ 06:50AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

___ 06:15AM BLOOD WBC-6.4 RBC-4.64 Hgb-14.3 Hct-44.3 MCV-96 
MCH-30.8 MCHC-32.3 RDW-13.2 RDWSD-45.9 Plt ___
___ 06:15AM BLOOD Glucose-98 UreaN-11 Creat-0.9 Na-144 
K-4.1 Cl-105 HCO3-27 AnGap-16

MICRO
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

IMAGING

___- CT HEAD- NO ACUTE PROCESS  
___- CHEST XRAY- NO RADIOGRAPHIC EVIDENCE OF PNEUMONIA  

 
Brief Hospital Course:
This is a ___ year old female with hypertension and ___ body 
dementia who presents with progressive weakness.  

ACUTE:
 # Weakness: Etiology of patients weakness not clear and may be 
___ progressive dementia.  She had no evidence of dehydration, 
infection or other metabolic abnormalities to account for 
symptoms.  CT head negative for acute process. Infectious w/u 
negative.  No evidence of aspiration.  Patient's weakness 
improved during admission. 

CHRONIC:
 # DEMENTIA WITH ___ BODIES:  continued home medications 
including donezepil, sinemet, carbidopa  
 
 # HYPERCHOLESTEROLEMIA : continued statin  

 #Depression: continued venlafaxine  

 #Insomnia: continued Seroquel  

Transitional Issues
-f/u with neurology as scheduled
-cont medications as outlined below 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 200 mg PO BID 
2. Atropine Sulfate Ophth 1% 1 DROP BOTH EYES 1DROP SL Q6-6H PRN 
SECRETIONS excess secretions 
3. Carbidopa-Levodopa (___) 1 TAB PO DAILY 
4. carbidopa 25 mg oral DAILY 
5. Donepezil 10 mg PO BID 
6. MethylPHENIDATE (Ritalin) 7.5 mg PO QAM 
7. MethylPHENIDATE (Ritalin) 5 mg PO QPM 
8. QUEtiapine Fumarate 50 mg PO QHS 
9. Simvastatin 20 mg PO QPM 
10. Venlafaxine XR 37.5 mg PO DAILY 

 
Discharge Medications:
1. carbidopa 25 mg oral DAILY 
2. Carbidopa-Levodopa (___) 1 TAB PO DAILY 
3. Donepezil 10 mg PO BID 
4. MethylPHENIDATE (Ritalin) 7.5 mg PO QAM 
5. MethylPHENIDATE (Ritalin) 5 mg PO QPM 
6. QUEtiapine Fumarate 50 mg PO QHS 
7. Simvastatin 20 mg PO QPM 
8. Venlafaxine XR 37.5 mg PO DAILY 
9. Acyclovir 200 mg PO BID 
10. Atropine Sulfate Ophth 1% 1 DROP BOTH EYES 1DROP SL Q6-6H 
PRN SECRETIONS excess secretions 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: ___ Body Dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 
You were admitted with weakness.  You had an infectious workup 
which was negative.  You were negative for influenza.  Your lab 
values were also within normal limits.  You were monitored over 
two nights and improved.  
It was a pleasure to care for you!  You should follow up with 
you primary care doctor and neurologist as scheduled.  
-Your ___ Team 
 
Followup Instructions:
___